US05808062
3-[(Cyclopropylmethyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one.
The title compound (0.053 g, m.p. 136°-137° C.) was prepared by method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (0.250 g, 1.33 mmol), cyclopropylmethyl-p-toluenethiosulfonate (0.585 g, 2.261 mmol), triethylamine (0.158 g, 1.46 mmol), sodium bicarbonate (0.110 g, 1.33 mmol), ethanol (10.0 mL). 1H NMR (250 MHz, CDCl3) δ 7.994-7.726 (m, 2 H), 7.683-7.406 (m, 3 H), 6.665 (s, 1 H), 2.724-2.694 (d, 2 H, J=7.3 Hz), 1.063-0.903 (m, 1 H), 0.608-0.533 (m, 2 H), 0.270-0.208 (m, 2 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 1.33 mmol, 0.250 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | cyclopropylmethyl-p-toluenethiosulfonate | 2.261 mmol, 0.585 g | C1(CC1)COS(=O)(=S)C1=CC=C(C=C1)C | C11H14O2S2
reactant | triethylamine | 1.46 mmol, 0.158 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 1.33 mmol, 0.110 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
product | 3-[(Cyclopropylmethyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | 0.053 g | C1(CC1)CSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C15H14O3S
